US06894061B2
N-[1-(2′,4′,5-Trifluoro-1,1′-biphenyl-2-yl)ethyl]-3-methoxybenzenesulfonamide
The title compound was prepared from 3-methoxybenzenesulfonyl chloride (146 mg, 0.7 mmol), 1-(-2′,4′,5-trifluoro-1,1′-biphenyl-2-yl)ethylamine (169 mg, 0.67 mmol), and triethylamine (187 μL, 1.3 mmol) according to the procedure and in the same manner as described in Example 105, step c. The product was purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 30%-50% methyl tert-butyl ether in hexane (35 min), to afford the desired compound (235 mg, 83%) as a white solid;

reactant | 3-methoxybenzenesulfonyl chloride | 0.7 mmol, 146 mg | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 1-(-2′,4′,5-trifluoro-1,1′-biphenyl-2-yl)ethylamine | 0.67 mmol, 169 mg | FC1=C(C=CC(=C1)F)C1=C(C=CC(=C1)F)C(C)N | C14H12F3N
reactant | triethylamine | 1.3 mmol, 187 μL | C(C)N(CC)CC | C6H15N
product | N-[1-(2′,4′,5-Trifluoro-1,1′-biphenyl-2-yl)ethyl]-3-methoxybenzenesulfonamide | 235 mg, 83% | FC1=C(C=CC(=C1)F)C1=C(C=CC(=C1)F)C(C)NS(=O)(=O)C1=CC(=CC=C1)OC | C21H18F3NO3S
